US08431563B2
A 100 mL round-bottom flask was charged with 2,2,2-trifluoro-1-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)ethanone (0.50 g, 1.26 mmol) and 10 mL of THF. After cooling to 0° C., cyclopropylmagnesium bromide (5.02 mL, 0.5 M in THF, 2.51 mmol, Sigma-Aldrich, St. Louis, Mo.) was added. After 10 min, the mixture was quenched with saturated aqueous NH4Cl (15 mL), extracted with EtOAc (2×50 mL), dried (MgSO4), and concentrated to give an oil. This oil was purified via column chromatography (40 g of silica, 0 to 40% EtOAc in hexanes) to give 1-cyclopropyl-2,2,2-trifluoro-1-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)ethanol (0.375 g) as a mixture of two enantiomers.

reactant | 2,2,2-trifluoro-1-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)ethanone | 1.26 mmol, 0.50 g | FC(C(=O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)(F)F | C18H17F3N2O3S
reactant | cyclopropylmagnesium bromide | 2.51 mmol, 0.5 M, 5.02 mL | C1(CC1)[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-cyclopropyl-2,2,2-trifluoro-1-(4-(4-(phenylsulfonyl)-1-piperazinyl)phenyl)ethanol | 0.375 g | C1(CC1)C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C21H23F3N2O3S
